US04798893
3-Acetyl-3a,7a-dihydro-7a-(phenylethynyl)benzofuran-2,5(3H,4H)dione, the product of Example 1A, (10.0 g, 34 mmole) and acetic anhydride (25 mL) were placed in a 100 mL flask and heated at reflux overnight under argon. Heating was stopped and the reaction was treated with water (25 mL) and stirred for 1 hr. The reaction was poured into water and extracted with Et2O. The combined ether extracts were washed with water and saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated to yield 9.4 g of crude product. Chromatography of the crude product over silica gel, using methylene chloride as eluent, gave 4.2 g of pure 1-[5-Acetoxy-2-(phenylethynyl)phenyl]-2-propanone product as a viscous oil.

reactant | 3-Acetyl-3a,7a-dihydro-7a-(phenylethynyl)benzofuran-2,5(3H,4H)dione | C(C)(=O)C1C(OC2(C1CC(C=C2)=O)C#CC2=CC=CC=C2)=O | C18H14O4
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 25 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[5-Acetoxy-2-(phenylethynyl)phenyl]-2-propanone | 4.2 g | C(C)(=O)OC=1C=CC(=C(C1)CC(C)=O)C#CC1=CC=CC=C1 | C19H16O3
